US07674825B2
Methyl 6-(4-methoxycarbonylbenzyl)-8-(2-methoxyphenyl)-7-octenoate
At 0° C., 77.4 mg (0.17 mmol) of 2-methoxybenzyltriphenylphosphonium bromide from Ex. IVj are suspended under argon in 20 ml of THF, and 0.115 ml of buthyl-lithium (0.18 mmol, 1.6 M solution in hexane) are added. The deep-orange solution is stirred at 0° C. for 30 min. At this temperature, a solution of 51.2 mg (0.17 mmol) of methyl 6-formyl-7-(4-methoxycarbonylphenyl)heptanoate (synthesis analogously to EP-A-0 341 551, p. 32, Ex. 44) in 15 ml of THF is added dropwise. The mixture is stirred at 0° C. for 30 min. At 0° C., water is added and the mixture is warmed to room temperature and extracted with ethyl acetate. The organic phase is washed with sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure. For purification, the substance is chromatographed on silica gel 60 (particle size 0.040-0.063 mm) using cyclohexane/ethyl acetate 9:1 to 1:1 as mobile phase.

reactant | 2-methoxybenzyltriphenylphosphonium bromide | 0.17 mmol, 77.4 mg | [Br-].COC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | methyl 6-formyl-7-(4-methoxycarbonylphenyl)heptanoate | 0.17 mmol, 51.2 mg | C(=O)C(CCCCC(=O)OC)CC1=CC=C(C=C1)C(=O)OC | C17H22O5
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Methyl 6-(4-methoxycarbonylbenzyl)-8-(2-methoxyphenyl)-7-octenoate | COC(=O)C1=CC=C(CC(CCCCC(=O)OC)C=CC2=C(C=CC=C2)OC)C=C1 | C25H30O5
